US06967197B2
To a solution of tert-butyl 2-[4-tert-butoxycarbonyl-7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate (4.7 g) in ethyl acetate (40 ml) was added dropwise a solution 4N-hydrogen chloride in ethyl acetate (40 ml) under ice-cooling. After being stirred at 0° C. for 30 minutes and at ambient temperature for 1 hour, reaction mixture was concentrated in vacuo and hydrogen chloride was azeotropically removed with toluene to give tert-butyl 2-[7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate hydrochloride (4.2 g) as an oil.

reactant | tert-butyl 2-[4-tert-butoxycarbonyl-7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate | 4.7 g | C(C)(C)(C)OC(=O)N1CCS(C(CC1)(C=1SC(=CC1)C1=CC=C(C=C1)C1=CN=CO1)CC(=O)OC(C)(C)C)(=O)=O | C29H36N2O7S2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-[7-(5-(4-(5-oxazolyl)phenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate hydrochloride | 4.2 g | Cl.O1C=NC=C1C1=CC=C(C=C1)C1=CC=C(S1)C1(CCNCCS1(=O)=O)CC(=O)OC(C)(C)C | InChI=1S/C24H28N2O5S2.ClH/c1-23(2,3)31-22(27)14-24(10-11-25-12-13-33(24,28)29)21-9-8-20(32-21)18-6-4-17(5-7-18)19-15-26-16-30-19;/h4-9,15-16,25H,10-14H2,1-3H3;1H
